US07732456B2
(2) Preparation of 2-ethoxycarbonyl-5-difluoromethoxypyridine
A DMF (15 mL)-ethanol (15 mL) mixed solvent solution of 2-bromo-5-difluoromethoxypyridine (1.32 g, 5.89 mmols), palladium acetate (132 mg, 0.59 mmol), 1,1′-bis(diphenylphosphino)ferrocene (654 mg, 1.18 mmols) and triethylamine (1.6 mL, 11.8 mmols) was stirred overnight at 50° C. in carbon monoxide atmosphere. The reaction liquid was cooled to room temperature and the solvent was concentrated under reduced pressure. Ethyl acetate was added to the resulting residue, followed by washing with water and drying over anhydrous magnesium sulfate. Concentrating the solvent under reduced pressure, the residue was purified on silica gel column chromatography (C-300, hexane:ethyl acetate=4:1-3:2) to provide the title compound (1.03 g, 80%).

reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
reactant | ethanol | 15 mL | C(C)O | C2H6O
reactant | 2-bromo-5-difluoromethoxypyridine | 5.89 mmols, 1.32 g | BrC1=NC=C(C=C1)OC(F)F | C6H4BrF2NO
reactant | triethylamine | 11.8 mmols, 1.6 mL | C(C)N(CC)CC | C6H15N
solvent | carbon monoxide | [C]=O | CO
catalyst | palladium acetate | 0.59 mmol, 132 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 1.18 mmols, 654 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-ethoxycarbonyl-5-difluoromethoxypyridine | 1.03 g, 80% | C(C)OC(=O)C1=NC=C(C=C1)OC(F)F | C9H9F2NO3
